US06121433
Loading of Intermediate on p-alkoxybenzyl Alcohol Resin
Phthalimidoacetaldehyde diethylacetate (5.3 g, 20 mmole) was dissolved in chloroform (100 mL) and a trifluoroacetic acid solution (50% aqueous, 80 mL) was added. The reaction mixture was stirred at room temperature for 12 hours. The chloroform layer was collected and dried over sodium sulfate. The filtrate was concentrated to give 3.75 g of the title compound (99% yield): TLC (Rf: 0.4; 40% EtOAc/Hexane), 1H NMR (DMSO-d6) δ 4.6 (s, 2 H, CH2), 7.8 (m, 4 H, Ar), 9.6 (s, 1 H, CHO). 13C NMR (DMSO-d6): δ 47.4 (CH2), 123.4 (Ar), 131.5 (Ar), 134.8 (Ar), 167.3 (CO), 196.8 (CHO).

reactant | Phthalimidoacetaldehyde diethylacetate | 20 mmole, 5.3 g | C(C)C(C(=O)O)CC.C1(C=2C(C(N1CC=O)=O)=CC=CC2)=O
reactant | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | p-alkoxybenzyl Alcohol Resin | 3.75 g, 99% yield | C1=CC=C(C=C1)COC2=CC=C(C=C2)CO | C14H14O2
